US03956260
15. BOC-Cys(Bzl)-Ser-Asn-Leu-Ser-Thr-Cys(Bzl)-Val-Leu-OH
3.90 g (6 mmols) of H-Cys(Bzl)-Val-Leu-OH, 1.15TFA are dissolved in freshly distilled dimethylformamide, treated with 4.48 g (5.5 mmols) of BOC-Cys(Bzl)-Ser-Asn-Leu-Ser-Thr-OH and stirred at room temperature until all is dissolved. The solution is then cooled to 0°C, 1.26 g (11 mmols) of N-hydroxysuccinimide and 0.98 ml of triethylamine in 45 ml of dimethylformamide are added, followed by cooling to -22°C and the addition of 1.13 g (5.5 mmols) of dicyclohexylcarbodimide in 10 ml of dimethylformamide. The batch is stirred for 1 hour at -22°C, then at room temperature for 3 days, filtered to remove precipitated dicyclohexylurea, and evaporated to dryness. The residue is stirred twice with a mixture of 200 ml of ethyl acetate and 20 ml of 5% citric acid solution, then once with a mixture of 200 ml of ethyl acetate and 20 ml of 5% sodium bicabonate solution. The resulting product is filtered off and dried at 40°C in a high vacuum. Melting point: 218°-221°C; [α]D20 -28.5° (c = 2 in dimethylformamide); Rf8 = 0.43.

reactant | H-Cys(Bzl)-Val-Leu-OH | 6 mmols, 3.90 g | N[C@@H](CSCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O | C21H33N3O4S
reactant | BOC-Cys(Bzl)-Ser-Asn-Leu-Ser-Thr-OH | 5.5 mmols, 4.48 g | N([C@@H](CSCC1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)O)C(=O)OC(C)(C)C | C35H55N7O13S
reactant | N-hydroxysuccinimide | 11 mmols, 1.26 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodimide | 5.5 mmols, 1.13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.98 ml | C(C)N(CC)CC | C6H15N
product | BOC-Cys(Bzl)-Ser-Asn-Leu-Ser-Thr-Cys(Bzl)-Val-Leu-OH | N([C@@H](CSCC1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CSCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C56H86N10O16S2
